US06313312B1
3-Hexyl-6-isopropyl-6-(3-nitrophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione
5-Hexyl-3-isopropyl-3(3-nitrophenyl)-3a,6a-dihydropyrrolo(3,4-c)pyrazole-4,6(3H,5H) dione (Preparation 58, 0.65 g, 1.6 mmol) was dissolved in dioxan (25 ml) and heated under reflux for 3 h. The solvent was removed in vacuo and the oily residue dried in vacuum for 16 h at room temperature to give the crude product as a yellow solid. The crude product was purified by chromatography on a Biotage Flash 12M™ cartridge packed with silica gel (8 g), eluting with hexane:ethyl acetate (9:1) to give the title compound (0.60 g, 100%).

reactant | 5-Hexyl-3-isopropyl-3(3-nitrophenyl)-3a,6a-dihydropyrrolo(3,4-c)pyrazole-4,6(3H,5H) dione | 1.6 mmol, 0.65 g | C(CCCCC)N1C(C2N=NC(C2C1=O)(C1=CC(=CC=C1)[N+](=O)[O-])C(C)C)=O | C20H26N4O4
solvent | dioxan | 25 ml | O1CCOCC1 | C4H8O2
product | 3-Hexyl-6-isopropyl-6-(3-nitrophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione | 0.60 g, 100% | C(CCCCC)N1C(C2C(C2C1=O)(C1=CC(=CC=C1)[N+](=O)[O-])C(C)C)=O | C20H26N2O4
